US08084448B2
A. 1-(3-Benzyloxy-4-nitrobenzyl)-3-trifluoromethyl-1H-pyrazole
To a solution of 3-trifluoromethyl-1H-pyrazole (632 mg, 4.65 mmol) and 2-benzyloxy-4-bromomethyl-1-nitrobenzene (1.0 g, 3.1 mmol) in DMF (8 mL) is added K2CO3 (642 mg, 4.65 mmol) and the mixture is stirred at RT for 48 h. The mixture is partitioned between EtOAc and water and the organic phase is washed with brine and dried over MgSO4. The solvent is removed under reduced pressure to give the title compound: (M+1)+=378.

reactant | 3-trifluoromethyl-1H-pyrazole | 4.65 mmol, 632 mg | FC(C1=NNC=C1)(F)F | C4H3F3N2
reactant | 2-benzyloxy-4-bromomethyl-1-nitrobenzene | 3.1 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CBr)[N+](=O)[O-] | C14H12BrNO3
reactant | K2CO3 | 4.65 mmol, 642 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 1-(3-Benzyloxy-4-nitrobenzyl)-3-trifluoromethyl-1H-pyrazole | C(C1=CC=CC=C1)OC=1C=C(CN2N=C(C=C2)C(F)(F)F)C=CC1[N+](=O)[O-] | C18H14F3N3O3
